US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (6-CHLOROPYRIDAZIN-3-YL)AMIDE
Following the procedure of Example 24, making variations only as required to use 3-amino-6-chloropyridazine in place of 2,2-(dimethylcyclopropyl)methylamine to react with 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid, the title compound was obtained as a white powder (8% yield). 1H NMR (300 MHz, CDCl3) δ 10.75, 8.62, 8.06, 7.75-7.50, 7.36, 7.03, 4.12-3.76, 3.36. 13C NMR (75 MHz, CDCl3) δ 167.7, 162.2, 160.1, 154.0, 152.3, 143.8, 134.1, 132.4, 129.7, 129.6, 127.3, 127.2, 126.94, 126.88, 126.7, 120.7, 112.2, 46.3, 44.6, 44.3, 41.3. MS (ES+) m/z 492.1 (M+1).

reactant | 3-amino-6-chloropyridazine | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | 6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)C(=O)O)C=CC=C1)(F)F | C17H15F3N4O3
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (6-CHLOROPYRIDAZIN-3-YL)AMIDE | ClC1=CC=C(N=N1)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H17ClF3N7O2
